US09328096B2
5-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-N-cyclopropyl-1-phenyl-1H-pyrazole-3-carboxamide
5-(5-bromo-2-chlorobenzamido)-N-cyclopropyl-1-phenyl-1H-pyrazole-3-carboxamide (Preparation 11, 290 mg, 0.63 mmol), bis(pinacolato)diboron (168 mg, 0.66 mmol) and KOAc (155 mg, 1.58 mmol) in dioxane (15 mL) was degassed with nitrogen for 25 minutes. Pd(dppf)Cl2 (26 mg, 0.03 mmol) was added and the reaction was degassed and heated at 110° C. for 4 hours. The reaction was cooled used directly in the next reaction without further purification.

reactant | 5-(5-bromo-2-chlorobenzamido)-N-cyclopropyl-1-phenyl-1H-pyrazole-3-carboxamide | 0.63 mmol, 290 mg | BrC=1C=CC(=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)NC2CC2)C1)Cl | C20H16BrClN4O2
reactant | bis(pinacolato)diboron | 0.66 mmol, 168 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 1.58 mmol, 155 mg | CC(=O)[O-].[K+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.03 mmol, 26 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-N-cyclopropyl-1-phenyl-1H-pyrazole-3-carboxamide | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)NC2CC2)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C26H28BClN4O4
